US06727249B2
(1R*,2R*,5R*)-8-(4-Azidobut-2-ynyl)-2-{[3,5-bis(trifluoromethyl)phenyl]-methoxy}-1-phenyl-8-azabicyclo[3.2.1]octane
(1R*,2R*,5R*)-2-{[3,5-Bis(trifluoromethyl)phenyl]methoxy}-8-(4-chlorobut-2-ynyl)-1-phenyl-8-azabicyclo[3.2.1]octane (Description 26; 254 mg, 0.49 mmol) and sodium azide (35 mg, 0.54 mmol) were stirred in dimethylformamide (3 ml) at room temperature overnight. The reaction mixture was diluted with water and the product extracted with ethyl acetate (×3), dried (MgSO4) and concentrated in vacuo to give the title compound as an orange oil.

reactant | (1R*,2R*,5R*)-2-{[3,5-Bis(trifluoromethyl)phenyl]methoxy}-8-(4-chlorobut-2-ynyl)-1-phenyl-8-azabicyclo[3.2.1]octane | 0.49 mmol, 254 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)CO[C@H]1[C@@]2(CC[C@H](CC1)N2CC#CCCl)C2=CC=CC=C2)(F)F | C26H24ClF6NO
reactant | sodium azide | 0.54 mmol, 35 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (1R*,2R*,5R*)-8-(4-Azidobut-2-ynyl)-2-{[3,5-bis(trifluoromethyl)phenyl]-methoxy}-1-phenyl-8-azabicyclo[3.2.1]octane | N(=[N+]=[N-])CC#CCN1[C@@]2([C@@H](CC[C@H]1CC2)OCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=CC=C2 | C26H24F6N4O
